US08314108B2
tert-Butyl 3-(2-(3-(5-cyanopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate
A 5 L flange-neck round-bottom flask equipped with an air stirrer rod and paddle, thermometer, pressure-equalizing dropping funnel, and nitrogen bubbler is charged with 5-(5-(2-hydroxy-6-methoxy-phenyl)-1H-pyrazol-3-ylamino)-pyrazine-2-carbonitrile (47.0 g, 152 mmol) and anhydrous THF (1.2 L). The stirred suspension, under nitrogen, is cooled to 0° C. A separate 2 L 3-necked round-bottom flask equipped with a large magnetic stirring bar, thermometer, and nitrogen bubbler is charged with triphenylphosphine (44.0 g; 168 mmol) and anhydrous THF (600 mL). The stirred solution, under nitrogen, is cooled to 0° C. and diisopropylazodicarboxylate (34.2 g; 169 mmol) is added and a milky solution is formed. After 3-4 min, a solution of t-butyl-N-(3-hydroxypropyl)-carbamate (30.3 g, 173 mmol) in anhydrous THF (100 mL) is added and the mixture is stirred for 3-4 min. This mixture is then added over 5 min to the stirred suspension of starting material at 0° C. The reaction mixture quickly becomes a dark solution and is allowed to slowly warm up to room temperature. After 6.5 h, more reagents are prepared as above using PPh3 (8 g), DIAD (6.2 g) and carbamate (5.4 g) in anhydrous THF (150 mL). The mixture is added to the reaction mixture, cooled to −5° C. and left to warm up to room temperature overnight. The solvent is removed in vacuo. The resulting viscous solution is loaded onto a pad of silica and product is eluted with ethyl acetate. The concentrated fractions are separately triturated with methanol and resulting solids are collected by filtration. The combined solids are triturated again with methanol (400 mL) and then isolated by filtration and dried in vacuo at 50° C. overnight to give 31.3 g of desired product. LC-ES/MS m/z 466.2 [M+1]+.

reactant | 5-(5-(2-hydroxy-6-methoxy-phenyl)-1H-pyrazol-3-ylamino)-pyrazine-2-carbonitrile | 152 mmol, 47.0 g | OC1=C(C(=CC=C1)OC)C1=CC(=NN1)NC=1N=CC(=NC1)C#N | C15H12N6O2
reactant | triphenylphosphine | 168 mmol, 44.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 169 mmol, 34.2 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | t-butyl-N-(3-hydroxypropyl)-carbamate | 173 mmol, 30.3 g | C(C)(C)(C)OC(NCCCO)=O | C8H17NO3
reactant | PPh3 | 8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 6.2 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | carbamate | 5.4 g | C(N)([O-])=O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
product | tert-Butyl 3-(2-(3-(5-cyanopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate | 31.3 g | C(#N)C=1N=CC(=NC1)NC1=NNC(=C1)C1=C(OCCCNC(OC(C)(C)C)=O)C=CC=C1OC | C23H27N7O4
